US04847306
(b) Ethyl 1-hydroxymethylcyclobutanecarboxylate (6b)
A mixture of ethyl 1-benzyloxymethylcyclobutanecarboxylate (6.57 g, 26.5 mmol), 10% palladium on carbon (0.4 g) and ethanol (100 ml) was hydrogenated on a Parr Shaker for 4 hours. The catalyst was removed by filtration. The filtrate was evaporated in vacuo to leave the desired product as a colorless oil: NMR (CDCl3) δ32 1.26 (3H, t, J=7 Hz), 1.8~2.6 (6H, m), 2.61 (H, s), 3.78 (2H, s), 4.15 (2H, q, J=7 Hz).

reactant | ethyl 1-benzyloxymethylcyclobutanecarboxylate | 26.5 mmol, 6.57 g | C(C1=CC=CC=C1)OCC1(CCC1)C(=O)OCC | C15H20O3
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Ethyl 1-hydroxymethylcyclobutanecarboxylate | OCC1(CCC1)C(=O)OCC | C8H14O3
